* Auto TB for barth_cell
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from barth.ext - technology: gf180mcuC

.subckt barth_cell inl inr out gp vreg op im ip om vss vdd m3_n7200_1320# bp
X0 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X1 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X4 d2 inr out vss nmos_3p3 w=1.8u l=0.6u
X5 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X6 d1 inl vss vss nmos_3p3 w=1.8u l=0.6u
X7 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X8 vss inr d2 vss nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 vss nmos_3p3 w=1.8u l=0.6u
X10 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
X11 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
C0 out om 0.11fF
C1 inr om 0.18fF
C2 om inl 0.18fF
C3 out op 0.11fF
C4 inr op 0.20fF
C5 op inl 0.20fF
C6 inr out 0.19fF
C7 out vreg 0.78fF
C8 out inl 0.17fF
C9 out bp 0.15fF
C10 inr inl 0.55fF
C11 vreg gp 1.98fF
C12 inr bp 0.32fF
C13 bp vreg 0.92fF
C14 bp inl 0.32fF
C15 vreg vdd 1.41fF
C16 vdd gp 0.66fF
C17 out vss 1.53fF
C18 inr vss 2.28fF
C19 inl vss 2.29fF
C20 vreg vss 0.72fF
C21 gp vss 1.56fF
C22 bp vss 6.58fF
C23 vdd vss 6.08fF
C24 d2 vss 0.18fF
C25 d1 vss 0.18fF
.ends

.subckt barth_edge gp vreg op x im ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 bp vreg 0.23fF
C1 vdd vreg 0.22fF
C2 hi vreg 0.11fF
C3 vreg gp 1.01fF
C4 hi bp 0.28fF
C5 vdd hih 0.45fF
C6 vreg gnd 0.44fF
C7 bp gnd 4.35fF
C8 vdd gnd 4.01fF
C9 lo gnd 0.84fF
C10 hi gnd 0.46fF
C11 hih gnd 0.46fF
.ends

.subckt barth ip im op om vdd gp bp vreg gnd
Xbarth_cell_10 ip x x gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_2 ip x x gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_11 im x op gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_3 x im x gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_4 ip x om gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_5 x im op gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_7 ip x om gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_6 x im op gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_8 x im x gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_9 x ip om gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_edge_0 gp vreg op x im ip om vdd gnd bp barth_edge
Xbarth_edge_1 gp vreg op x im ip om vdd gnd bp barth_edge
Xbarth_cell_0 im x op gp vreg op im ip om gnd vdd x bp barth_cell
Xbarth_cell_1 x ip om gp vreg op im ip om gnd vdd x bp barth_cell
C0 bp gnd -1.22fF
C1 vdd gp 0.17fF
C2 x gnd 0.21fF
C3 vreg gp -0.88fF
C4 ip om 0.27fF
C5 im om 0.40fF
C6 im ip 0.79fF
C7 vdd gnd -0.77fF
C8 ip op 0.24fF
C9 im op 0.38fF
C10 vreg x 0.16fF
C11 vreg gnd 0.20fF
C12 x om 0.65fF
C13 x ip 0.48fF
C14 im x 0.25fF
C15 vreg vdd 0.30fF
C16 x op 0.55fF
C17 om gnd -0.53fF
C18 ip gnd -0.42fF
C19 gnd op -0.31fF
C20 gnd 0 -18.78fF
C21 vdd 0 70.19fF
C22 om 0 20.05fF
C23 ip 0 22.91fF
C24 im 0 22.89fF
C25 op 0 19.60fF
C26 gp 0 16.84fF
C27 bp 0 79.74fF
C28 x 0 39.82fF
C29 vreg 0 3.28fF
.ends



Vdd vdd 0 DC 1.8
Vss vss 0 DC 0
X1 inl inr out gp vreg op im ip om vss vdd m3_n7200_1320# bp barth_cell
.op
.control
op
.endc
.end
